US07829572B2
Preparation of (R)-4-amino-N-(1-phenylpropan-2-yl)-2-(trifluoromethyl)nicotinamide
4-amino-2-(trifluoromethyl)nicotinic acid (15 g, 61.83 mmol) was suspended in a mixture of anhydrous DMF (300 mL) and anhydrous dichloromethane (500 mL). To this was added triethylamine (30.4 mL, 216 mmol), followed by L-amphetamine hydrochloride (12.7 g, 74.2 mmol). HBTU (30.5 g, 80.4 mmol) was added and the mixture was allowed to stir at room temperature overnight. The reaction mixture was concentrated in vacuo to remove dichloromethane. The resultant DMF solution was poured into water, extracted with ethyl acetate (1 L). The organic layer was washed successively with 1N NaOH, saturated sodium bicarbonate, water, dried over sodium sulfate, filtered and concentrated in vacuo to give an oil. This oil was purified by silica gel column chromatography using 40-70% ethyl acetate/heptanes as eluant to provide the product as a colorless foam (18.3 g, 92% yield). 1H NMR (400 MHz, CDCl3) δ 8.2 (d, 1H), 7.2-7.4 (m, 5H), 6.6 (d, 1H), 5.8 (d, 1H), 4.7 (bs, 2H), 4.5 (m, 1H), 2.9 (m, 2H), 1.25 (d, 3H). MS m/z 324.3 (M+H)+.

reactant | 4-amino-2-(trifluoromethyl)nicotinic acid | 61.83 mmol, 15 g | NC1=CC=NC(=C1C(=O)O)C(F)(F)F | C7H5F3N2O2
reactant | triethylamine | 216 mmol, 30.4 mL | C(C)N(CC)CC | C6H15N
reactant | L-amphetamine hydrochloride | 74.2 mmol, 12.7 g | C[C@H](CC1=CC=CC=C1)N | C9H13N
reactant | HBTU | 80.4 mmol, 30.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | (R)-4-amino-N-(1-phenylpropan-2-yl)-2-(trifluoromethyl)nicotinamide | 18.3 g, 92% yield | NC1=CC=NC(=C1C(=O)N[C@@H](CC1=CC=CC=C1)C)C(F)(F)F | C16H16F3N3O
